US07157487B2
To methyl (2-(3-pyridyl)-6-benzoxazolyl)acetate (360 mg, 1.34 mmol) were added THF (8 ml) and 0.5N NaOH (8.0 ml, 4.00 mmol). The resulting mixture was stirred at room temperature for 20 hours. To the reaction mixture were added water and 1N HCl (5.0 ml, 5 mmol) to acidify the mixture, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent to give (2-(3-pyridyl)-6-benzoxazolyl)acetic acid (179 mg, 52%) as a yellow solid.

reactant | methyl (2-(3-pyridyl)-6-benzoxazolyl)acetate | 1.34 mmol, 360 mg | N1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C15H12N2O3
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | NaOH | 4.00 mmol, 0.5N, 8.0 ml | [OH-].[Na+]
reactant | HCl | 5 mmol, 1N, 5.0 ml | Cl | ClH
solvent | water | O | H2O
product | (2-(3-pyridyl)-6-benzoxazolyl)acetic acid | 179 mg, 52% | N1=CC(=CC=C1)C=1OC2=C(N1)C=CC(=C2)CC(=O)O | C14H10N2O3
